US07192982B2
4-Benzyloxy-2-chloro-benzaldehyde
To a solution of (4-Benzyloxy-2-chloro-phenyl)-methanol in dichloromethane, MnO2 (10 eq) were added and the mixture reaction stirred overnight. Filtered through a pad of celite and purified by chromatography in silica gel to give the title product.

reactant | (4-Benzyloxy-2-chloro-phenyl)-methanol | C(C1=CC=CC=C1)OC1=CC(=C(C=C1)CO)Cl | C14H13ClO2
solvent | dichloromethane | ClCCl | CH2Cl2
catalyst | MnO2 | 10 eq | O=[Mn]=O
product | 4-Benzyloxy-2-chloro-benzaldehyde | C(C1=CC=CC=C1)OC1=CC(=C(C=O)C=C1)Cl | C14H11ClO2
